US06087371
1,6-Dimethyl-2-chloro-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline
To a stirred solution of 2 g of 1,6-dimethyl-8β-methyl[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline in ml 50 of acetonitrile and ml 0.5 of BF3-2 Et2O was added dropwise a solution of 0.6 g of sulphuryichloride (SO2Cl2) in ml 15 of acetonitrile at -5° C.

reactant | 1,6-dimethyl-8β-methyl[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline | 2 g | CN1C=C2C[C@H]3N(C[C@@](C[C@@]3(C=3C=CC=C1C32)OC)(C)C3=NC(=NO3)C=3C=NC=C(C3)Br)C | C25H26BrN5O2
reactant | sulphuryichloride | 0.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,6-Dimethyl-2-chloro-8β-methyl-[3-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-5-yl]-10α-methoxy-ergoline | CN1C(=C2C[C@H]3N(C[C@@](C[C@@]3(C=3C=CC=C1C32)OC)(C)C3=NC(=NO3)C=3C=NC=C(C3)Br)C)Cl | C25H25BrClN5O2
